### PR TITLE
Erdős Problem 422

### PR DESCRIPTION
**Pull request by rao107**
Adds [Erdős Problem 422](https://www.erdosproblems.com/422).

### CODE REVIEW

File: FormalConjectures/ErdosProblems/422.lean [hunk 1]
```diff
@@ -0,0 +1,46 @@
...
+Let $f(1) = f(2) = 1$ and for $n > 2$
+$$
+f(n) = f(n - f(n - 1)) + f(n - f(n - 2)).
+$$
+Note: It is not known whether $f(n)$ is well-defined for all $n$.
+-/
+partial def f : ℕ+ → ℕ+
+| 1 => 1
+| 2 => 1
+| n => f (n - f (n - 1)) + f (n - f (n - 2))
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/422.lean]:
```suggestion
  | 1 => 1
  | 2 => 1
  | n => f (n - f (n - 1)) + f (n - f (n - 2))
```

File: FormalConjectures/ErdosProblems/422.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/422.lean:42]: Here I think it would be interesting to add two statements:
1) The question of the surjectivity of `f` (seems to be open)
2) The question of whether the sequence `f` must eventually terminate (presumably not? admittedly I haven't thought too much about whether or not this is hard to prove)

Comment (rao107) [reply FormalConjectures/ErdosProblems/422.lean:42]: Those sound like good ideas. I'll also add in a question of the function's growth rate since that's open as well.

Comment (rao107) [reply FormalConjectures/ErdosProblems/422.lean:42]: Hey, I added your suggestions but I had a bit of trouble with the second.

For it, I removed the `partial` definition for `f` and defined the function with `sorry`. I don't think this is what you had in mind when you suggested it so I'd welcome any other ways to define that `f` must eventually terminate.

Comment (smmercuri) [reply FormalConjectures/ErdosProblems/422.lean:42]: Perhaps by termination @Paul-Lez meant whether `f` becomes stationary at some point? I.e., does there exist `m` and `N` for which `f n = m` for all `n` larger than `N`. Termination can be quite surprising in this sense, see for example the [Goodstein sequence](https://oeis.org/A266201) which eventually decreases and terminates at 0.

The other interpretation of termination here is whether one reaches a point at which `f n` cannot be defined (e.g, if `n - f (n - 1) < 0`), but I think this sense is already captured in the definition.

Comment (rao107) [reply FormalConjectures/ErdosProblems/422.lean:42]: Apologies for the delay! I've added another variant for `f` eventually becoming stationary. :slightly_smiling_face:

File: FormalConjectures/ErdosProblems/422.lean [hunk 3]
```diff
@@ -0,0 +1,73 @@
...
+-/
+@[category research open, AMS 11]
+theorem erdos_422.variants.growth_rate : f =O[atTop] (answer(sorry) : ℕ+ → ℕ+) := by
+  sorry
+
+/--
+Does $f$ become stationary at some point?
+-/
+@[category research open, AMS 11]
+theorem erdos_422.variants.eventually_const : (∃ n, EventuallyConst f n) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/422.lean]:
```suggestion
theorem erdos_422.variants.eventually_const : EventuallyConst f atTop ↔ answer(sorry) := by
```
This does not look quite right to me, as you are asking for the existence of a filter `n`. I'm guessing this is what you want?

File: FormalConjectures/ErdosProblems/422.lean [hunk 4]
```diff
@@ -0,0 +1,73 @@
...
+Let $f(1) = f(2) = 1$ and for $n > 2$
+$$
+f(n) = f(n - f(n - 1)) + f(n - f(n - 2)).
+$$
+-/
+partial def f : ℕ+ → ℕ+
+  | 1 => 1
+  | 2 => 1
+  | n => f (n - f (n - 1)) + f (n - f (n - 2))
+-- Note: It is not known whether $f(n)$ is well-defined for all $n$.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/422.lean]:
```suggestion
$$

Note: It is not known whether $f(n)$ is well-defined for all $n$.
-/
partial def f : ℕ+ → ℕ+
  | 1 => 1
  | 2 => 1
  | n => f (n - f (n - 1)) + f (n - f (n - 2))
```
Moved the comment into the docstring.

File: FormalConjectures/ErdosProblems/422.lean [hunk 5]
```diff
@@ -0,0 +1,73 @@
...
+*Reference:* [erdosproblems.com/422](https://www.erdosproblems.com/422)
+-/
+
+namespace Erdos422
+
+open Filter
+open scoped Topology
+
+instance : Norm ℕ+ where
+  norm n := n
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/422.lean]: I'm not sure if you want to add this as a global instance. For example there seems to be no `Norm` instance on `ℕ` in mathlib (that I can find). I believe the reason for this is that you don't want it as an instance as a priori there are multiple possible norms (such as the p-adic norms as well). I'm assuming you are adding this in order to talk about the growth rate below, but what you can do is just to view `f` as a function valued in R for that statement. See my suggestion below.

File: FormalConjectures/ErdosProblems/422.lean [hunk 6]
```diff
@@ -0,0 +1,73 @@
...
+-/
+@[category research open, AMS 11]
+theorem erdos_422.variants.surjective : f.Surjective ↔ answer(sorry) := by
+  sorry
+
+/--
+How does $f$ grow?
+-/
+@[category research open, AMS 11]
+theorem erdos_422.variants.growth_rate : f =O[atTop] (answer(sorry) : ℕ+ → ℕ+) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/422.lean]:
```suggestion
theorem erdos_422.variants.growth_rate :
    (fun n ↦ (f n : ℝ)) =O[atTop] (answer(sorry) : ℕ+ → ℝ) := by
```

File: FormalConjectures/ErdosProblems/422.lean (hunk 5 above)
Comment (callesonne) [inline FormalConjectures/ErdosProblems/422.lean]:
```suggestion
```
I'm not sure if you want to add this as a global instance. For example there seems to be no `Norm` instance on `ℕ` in mathlib (that I can find). I believe the reason for this is that you don't want it as an instance as a priori there are multiple possible norms (such as the p-adic norms as well). I'm assuming you are adding this in order to talk about the growth rate below, but what you can do is just to view `f` as a function valued in R for that statement. See my suggestion below.

Comment (rao107) [reply FormalConjectures/ErdosProblems/422.lean]: Oh, I didn't realize I could do that! Thank you so much!
